US06451792B1
1.40 g of N-(1-(methylthio)-2-nitroethenyl)methanesulfonamide (Intermediate No. 57), 1.80 g of 6-(2-ethoxyethoxy)-4-trifluoromethyl-2-pyridylhydrazine and 11 ml of ethanol were stirred for 15 hours under heating and refluxing and then cooled to room temperature, whereupon precipitated crystals were collected by filtration. The crystals obtained by filtration were washed with a small amount of ethanol and then dried to obtain 0.97 g of N-(1-(6-(2-ethoxyethoxy)-4-trifluoromethyl-2-pyridyl)hydrazino-2-nitroethenyl)methanesulfonamide (Compound No. 164) having a melting point of 153° C.

reactant | N-(1-(methylthio)-2-nitroethenyl)methanesulfonamide | 1.40 g | CSC(=C[N+](=O)[O-])NS(=O)(=O)C | C4H8N2O4S2
reactant | 6-(2-ethoxyethoxy)-4-trifluoromethyl-2-pyridylhydrazine | 1.80 g | C(C)OCCOC1=CC(=CC(=N1)NN)C(F)(F)F | C10H14F3N3O2
solvent | ethanol | 11 ml | C(C)O | C2H6O
product | N-(1-(6-(2-ethoxyethoxy)-4-trifluoromethyl-2-pyridyl)hydrazino-2-nitroethenyl)methanesulfonamide | 0.97 g | C(C)OCCOC1=CC(=CC(=N1)N(N)C(=CNS(=O)(=O)C)[N+](=O)[O-])C(F)(F)F | C13H18F3N5O6S
